### PR TITLE
[Merged by Bors] - feat: Multiset lemmas

### PR DESCRIPTION
**Pull request by haitian-yuki**
---

These are used to prove the Dershowitz-Manna ordering theorem.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Multiset/Basic.lean [hunk 1]
```diff
@@ -2327,6 +2333,70 @@ theorem map_count_True_eq_filter_card (s : Multiset α) (p : α → Prop) [Decid
...
+  have h0 : M.count x + N.count x = P.count x + Q.count x := by
+    rw [Multiset.ext] at h
+    simp_all only [Multiset.mem_add, Multiset.count_add]
+  by_cases l_u : M.count x ≤ P.count x
+  · have : N.count x ≥ Q.count x := by sorry -- linarith?
+    simp_all only [ge_iff_le, min_eq_right]
+    -- have := tsub_add_cancel_of_le l_u
+    sorry --linarith
+  · simp_all only [not_le, gt_iff_lt]
+    have : Multiset.count x N ≤ Multiset.count x Q := by sorry --linarith?
```
Comment (YaelDillies) [inline Mathlib/Data/Multiset/Basic.lean:2396]: You can use `le_or_le_of_add_le_add h0.ge` here

File: Mathlib/Data/Multiset/Basic.lean [hunk 2]
```diff
@@ -996,6 +996,11 @@ theorem card_erase_eq_ite {a : α} {s : Multiset α} :
   · rwa [card_erase_of_mem h, if_pos]
   · rwa [erase_of_not_mem h, if_neg]
 
+theorem in_of_ne_of_cons_erase {a a0: α} {M X : Multiset α}
+    (H : M = (a0 ::ₘ X).erase a) (hyp : ¬ a = a0) : a0 ∈ M := by
+  rw [H, Multiset.mem_erase_of_ne fun h ↦ hyp <| id <| Eq.symm h, Multiset.mem_cons]
+  tauto
```
Comment (YaelDillies) [inline Mathlib/Data/Multiset/Basic.lean:1002]: I don't think this lemma is worth having:
1. We almost never have lemmas taking an equality as an assumption. The reasons are that
  a. The user is (almost) always able to substitute that equality before trying to apply any lemma
  b. Adding all possible such lemmas would lead to combinatorial explosion
2. Once you substitute `M` in, the proof is structurally made of existing lemmas, namely `(mem_erase_of_ne hyp.symm).2 (mem_cons_self ..)`

File: Mathlib/Data/Multiset/Basic.lean [hunk 3]
```diff
@@ -2327,6 +2332,57 @@ theorem map_count_True_eq_filter_card (s : Multiset α) (p : α → Prop) [Decid
   simp only [count_eq_card_filter_eq, filter_map, card_map, Function.id_comp,
     eq_true_eq_id, Function.comp_apply]
 
+theorem sub_singleton [DecidableEq α] (a : α) (s : Multiset α) : s - {a} = s.erase a := by
```
Comment (YaelDillies) [inline Mathlib/Data/Multiset/Basic.lean:2335]:
```suggestion
@[simp] theorem sub_singleton [DecidableEq α] (a : α) (s : Multiset α) : s - {a} = s.erase a := by
```

File: Mathlib/Data/Multiset/Basic.lean [hunk 4]
```diff
@@ -2327,6 +2332,57 @@ theorem map_count_True_eq_filter_card (s : Multiset α) (p : α → Prop) [Decid
...
+        rw [Multiset.count_cons_of_ne this M]
+      simp_all
+    · have : M.count b = (a ::ₘ M).count b := by
+        have : b ≠ a := by simp_all
+        rw [Multiset.count_cons_of_ne this M]
+      rw [this]
+      simp_all
+
+theorem mem_sub_of_not_mem_of_mem {α} [DecidableEq α] (x : α) (X Y: Multiset α) (x_in_X : x ∈ X)
+    (x_notin_Y : x ∉ Y) : x ∈ X - Y  := by
```
Comment (YaelDillies) [inline Mathlib/Data/Multiset/Basic.lean:2370]:
```suggestion
theorem mem_sub [DecidableEq α] : a ∈ s - t ↔ t.count a < s.count a := by
  rw [← count_pos, count_sub, Nat.sub_pos_iff_lt]
```
then your original lemma can be obtained using `count_pos` again and `count_eq_zero_of_not_mem`

File: Mathlib/Data/Multiset/Basic.lean [hunk 5]
```diff
@@ -2327,6 +2332,57 @@ theorem map_count_True_eq_filter_card (s : Multiset α) (p : α → Prop) [Decid
...
+  have : Multiset.count x X ≥ 1 := by
+    rw [← Multiset.one_le_count_iff_mem] at x_in_X
+    exact x_in_X
+  rw [← Multiset.one_le_count_iff_mem, Multiset.count_sub]
+  simp_all
+
+theorem inter_add_sub_of_eq {α} [dec : DecidableEq α] {M N P Q: Multiset α} (h : M + N = P + Q) :
```
Comment (YaelDillies) [inline Mathlib/Data/Multiset/Basic.lean:2377]:
```suggestion
theorem inter_add_sub_of_eq [DecidableEq α] {M N P Q : Multiset α} (h : M + N = P + Q) :
```

File: Mathlib/Data/Multiset/Basic.lean [hunk 6]
```diff
@@ -2327,6 +2332,57 @@ theorem map_count_True_eq_filter_card (s : Multiset α) (p : α → Prop) [Decid
...
+    N = N ∩ Q + (P - M) := by
```
Comment (YaelDillies) [inline Mathlib/Data/Multiset/Basic.lean:2378]: Can you put a few more brackets so that it's clear whether it's supposed to be read as
```suggestion
    N = N ∩ (Q + (P - M)) := by
```
or
```suggestion
    N = (N ∩ Q) + (P - M) := by
```

**Review by YaelDillies — COMMENTED** [review]
Please mark this PR as ready for review (instead of draft) when it is

File: Mathlib/Data/Multiset/Basic.lean (hunk 4 above)
Comment (haitian-yuki) [reply Mathlib/Data/Multiset/Basic.lean:2370]: Indeed, (also as a side note to myself ;-)) the original lemma can be proved as follows:

`
theorem mem_sub_of_not_mem_of_mem {α} [DecidableEq α] (x : α) (X Y: Multiset α) (x_in_X : x ∈ X)
    (x_notin_Y : x ∉ Y) : x ∈ X - Y := by
  rwa [mem_sub, count_eq_zero_of_not_mem, count_pos]
  assumption
`

File: Mathlib/Data/Multiset/Basic.lean [hunk 7]
```diff
@@ -2327,6 +2327,53 @@ theorem map_count_True_eq_filter_card (s : Multiset α) (p : α → Prop) [Decid
...
+        simp_all
+      have : M.count a0 = Multiset.count a0 (a ::ₘ M) := by
+        have : a0 ≠ a := by simp_all
+        rw [Multiset.count_cons_of_ne this M]
+      simp_all
+    · have : M.count b = (a ::ₘ M).count b := by
+        have : b ≠ a := by simp_all
+        rw [Multiset.count_cons_of_ne this M]
+      rw [this]
+      simp_all
```
Comment (YaelDillies) [inline Mathlib/Data/Multiset/Basic.lean:2362]: Given that this works, I think we don't need this lemma
```suggestion
  rw [← H, sub_singleton, erase_cons_head]
```

**Comment by YaelDillies** [comment]
The rest looks good

maintainer merge

File: Mathlib/Data/Multiset/Basic.lean [hunk 8]
```diff
@@ -2327,6 +2327,24 @@ theorem map_count_True_eq_filter_card (s : Multiset α) (p : α → Prop) [Decid
   simp only [count_eq_card_filter_eq, filter_map, card_map, Function.id_comp,
     eq_true_eq_id, Function.comp_apply]
 
+@[simp] theorem sub_singleton [DecidableEq α] (a : α) (s : Multiset α) : s - {a} = s.erase a := by
+  ext
+  simp [Multiset.erase_singleton, Multiset.count_singleton]
```
Comment (urkud) [inline Mathlib/Data/Multiset/Basic.lean:2332]: `simp only ...`?

Comment (YaelDillies) [reply Mathlib/Data/Multiset/Basic.lean:2332]: I think `split` should be considered a fancy tactic here

Comment (m4lvin) [reply Mathlib/Data/Multiset/Basic.lean:2332]: What does "fancy" mean here? That we do not need to change this to `simp only`?

Comment (YaelDillies) [reply Mathlib/Data/Multiset/Basic.lean:2332]: Yes, basically. See eg https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Terminal.20tidy/near/293210921

**Review by YaelDillies — COMMENTED** [review]
maintainer merge

File: Mathlib/Data/Multiset/Basic.lean (hunk 8 above)
Comment (semorrison) [reply Mathlib/Data/Multiset/Basic.lean:2332]: I disagree here, I've seen plenty on nonterminal simps before a split break.

Comment (m4lvin) [reply Mathlib/Data/Multiset/Basic.lean]: I pushed a change for this.

**Comment by b-mehta** [comment]
Thanks!

bors merge
